Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins
 
Attending: ___.
 
Chief Complaint:
vertigo 
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
The patient is a ___ y/o F with PMHx significant for CAD s/p CABG 
and PCI, dCHF (EF 40-45% in ___, Polymyalgia Rheumatica, DMII, 
depression, hypothyroidism, vertigo presenting with dizziness.  
Patient states that she awoke on the day of presentation with 
acute onset dizziness with vomiting. The dizziness is described 
as lightheadedness and possibly room spinning. Otherwise no 
chest pain, palpitations, shortness of breath, cough, abdominal 
pain, diarrhea. She does endorse 2 weeks of intermittent night 
sweats. She says that this dizzness has never happened to her 
before and prior to it's onset she felt completely at baseline.  

In the ED, initial vitals were:97.4, 78, 152/97, 20, 100% RA  
- Physical exam was notable for nystagmus
- Labs were significant for WBC 13, Cr at baseline, lactate 1.5, 
UA negative
- Imaging with CT head revealed no acute process  
- The patient was given:  
___ 09:22 IV Ondansetron 4 mg ___  
___ 09:22 IVF 1000 mL NS 500 mL ___  
___ 13:57 IVF 1000 mL NS 500 mL ___  
___ 13:57 IV Metoclopramide 10 mg ___  
___ 18:06 IVF 1000 mL NS 500 mL ___  
___ 20:44 PO Acetaminophen 650 mg ___  
___ 20:44 IV Metoclopramide 10 mg ___  
___ 21:17 PO Lorazepam 1 mg ___  
- she was initially orthostatic but this improved after fluid 
rescusitation  
- she complained of a headache which resolved with Tylenol  
- Neurology was consulted and felt that there was nothing 
acutely neurologic and recommended Medicine admission  
- Due to her inability to ambulate, she was admitted for further 
workup  

ROS: 10-point ROS negative except as otherwise noted above.
 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
CABG in ___: CAD s/p CABG ___ (___->LAD, SVG->diag->OM, 
SVG->PDA) 
Cath: ___  
-- LIMA to LAD patent.
-- SVG to the diagonal and OM occluded.
-- SVG to the PDA was occluded.  
-- Old 80% LAD lesion and 100% D1 occlusion. 
-- circumflex moderately diseased, 
-- RCA had serial 80% lesions --> 3 stents placed in the RCA.  
PCI: RCA PCI in ___
.
3. OTHER PAST MEDICAL HISTORY:
- prior CVA without residual deficit  
- glaucoma  
- arthritis  
- history of heart block and dual chamber pacemaker placement in 
___  
- diastolic CHF
- PVD
- Vertigo
- HTN
- Hypothyroidism
- Depression/Anxiety

 
Social History:
___
Family History:
Her son, ___, had a history of diabetes, hypertension, 
hyperlipidemia, status post anterior ST elevation MI with a 
drug-eluting stent to the proximal LAD in ___. He had an 
ICD implanted in ___ for a nonsustained VT in the 
setting of low EF (20%).  He presented on ___ after 
syncope and ICD shocks for rapid monomorphic VT with cycle 
length 210, right bundle-branch block configuration, right 
superior axis.  There may have been 12 occurrences.  During VT 
ablation in the EP lab, he had a non-clinical VT for which 
shocked.  He had a PEA arrest from which he recovered but never 
regained normal function.  He died ___ following a 
prolonged neurological vegetative state. 

Family history also significant for coronary artery disease. 
 
Physical Exam:
Admission Physical Exam:
Vitals: BP 149/79, HR 61, RR 15, 100% on RA
General: lying in bed, no acute distress
HEENT: NCAT, dry mucous membranes
NECK: no JVD elevation
Heart: normal s1/s2, RRR, no murmurs
Lungs: clear to auscultation bilaterally, no wheezes/rales  
Abdomen: +BS, soft, non-tender, nondistended  
Genitourinary: no Foley
Extremities: no edema
Neurological: AAOx3, moving all extremities

Discharge Physical Exam:
VS - 98.1, 159/81, 56, 18, 100% RA   
General: well-appearing, NAD
HEENT: MMM, EOMI
Neck: no JVD, no LAD
CV: S1,S2, no M/R/G   
Lungs: CTAB  
Abdomen:soft, non-tender    
Skin: no rash   
 
Pertinent Results:
Admission Labs:
--------------------
___ 09:09AM BLOOD WBC-13.0* RBC-3.78* Hgb-10.7* Hct-32.5* 
MCV-86 MCH-28.3 MCHC-32.9 RDW-14.1 Plt ___
___ 09:09AM BLOOD Neuts-78.2* Lymphs-14.7* Monos-5.4 
Eos-1.2 Baso-0.5
___ 09:09AM BLOOD Plt ___
___ 09:09AM BLOOD Glucose-196* UreaN-48* Creat-1.5* Na-136 
K-4.1 Cl-96 HCO3-28 AnGap-16
___ 09:09AM BLOOD cTropnT-<0.01
___ 05:53AM BLOOD CK-MB-4 cTropnT-0.03*
___ 10:05AM BLOOD cTropnT-0.01
___ 09:09AM BLOOD Albumin-3.8 Calcium-10.4* Phos-2.7 Mg-2.1

Imaging:
--------------------
CT head ___:
1. No evidence of acute intracranial abnormality.
2. Please note, MRI brain with contrast is more sensitive in the 
detection of acute stroke or intracranial mass. 
3.  Atrophy, probable small vessel ischemic changes, and 
atherosclerotic vascular disease as described.

CTA head and neck ___:
1. No evidence for acute intracranial abnormalities. 
2. No evidence for arterial dissection in the neck or 
intracranial compartment. 
3. Atherosclerotic plaque with moderate to severe stenosis of 
the right vertebral artery origin. Small focus of plaque in the 
proximal right V4 segment, distal to the right ___, with 
moderate narrowing of the remainder of the right V4 segment. 
4. Atherosclerotic plaque with mild narrowing of the left 
vertebral artery origin and P1 segment. Also calcified plaque in 
the proximal left V4 segment without flow-limiting stenosis. 
5. Atherosclerosis of bilateral proximal internal carotid 
arteries without flow-limiting stenosis. Atherosclerosis of 
bilateral carotid siphons with moderate narrowing of bilateral 
para clinoid segments. 
6. Multiple periapical lucencies in the maxilla and mandible. 
Please correlate clinically whether active dental infection may 
be present. 
7. Multilevel cervical spondylosis. At C5 and the upper C6 
levels, posterior longitudinal ligament ossification moderately 
narrows the spinal canal. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo woman PMH CAD, diastolic HF ( mildly 
reduced EF 40-45%), PMR (on steroids), DM2, and per chart review 
a history of vertigo who presented with sudden onset of 
dizziness and vomiting. 

# Vertigo: Ultimately cause was unclear but resolved. She was 
seen by the Neuro Stroke team and had CT head as well as CTA 
head and neck which showed no evidence of acute intracranial 
abnormality or vertebral dissection. There was evidence of 
atherosclerotic disease. Acute stroke was therefore thought to 
be unlikely.  She was found to be orthostatic in the ED and 
received 1.5 L of IVF.  She was admitted to medicine and placed 
on telemetry; she had no events. The Electrophysiology Service 
was consulted to interrogate her pacemaker and her pacemaker was 
found to be working fine. ___ maneuver did not reproduce 
her symtoms making BPPV less likely. She was seen by physical 
therapy who recommended that she was safe for discharge with 
home physical therapy.  If persistently orthostatic, would check 
AM cortisol level to evaluate for adrenal insufficiency, 
especially since she is on long-standing Prednisone.

# Blurry Vision: Ms. ___ also noted that she had new blurry 
vision. Ophthalmology was consulted and blurry vision had nearly 
resolved. They believed vision changes may be related to dry 
eyes and recommended artificial tears QID, with Ophthalmology 
follow-up in 1 week. 

# ___: On HD2 she had an increase in her creatinine from 1.4 to 
2.1. This was thought to be contrast induced nephropathy vs. 
prerenal. Her lisinopril was held x 1 day. She was given IVF and 
creatine improved with creatinine at discharge 1.4 consistent 
with pre-renal rather than contrast-induced nephropathy.  Her 
lisinopril was restarted on discharge. 

# Nightsweats: Reported on admission. This was not worked up as 
inpatient, but this should be followed up as an outpatient.  

Chronic Issues:

# CAD: S/p CABG and PCI, s/p dual chamber pacemaker 
- continued home medications: carvedilol, plavix, aspirin, 
rosuvastatin

# HTN: continued torsemide and lisinopril (except x 1 day in 
setting of ___.  

# DM2: held home hypoglycemics, placed on insulin sliding scale  


 
===============================================================
Transitional Issues:
===============================================================
- Please check A1c and lipid panel at next PCP appointment for 
CVA risk factor optimization
- Lisinopril was held x 1 day given ___ with Cr to 2.1 and 
restarted prior to discharge after return of Cr to baseline, 
would recommend repeat chem 7 at next PCP appointment to ensure 
Cr stable
- periapical lucencies in the maxilla and mandible noted on CTA, 
would recommend dental follow-up as outpatient 
- she was complaining of night sweats during this admission, 
would recommend following up as outpatient and consider further 
malignancy work-up 
- may consider titrating down lisinopril if has persistent 
episodes of vertigo 
- should f/u with Ophthalmology 1 week after discahrge. 
Appointment currently being scheduled
- if patient continues to have orthostatic hypotension, would 
send AM cortisol to evaluate for adrenal insufficiency
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 10 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. glimepiride 2 mg oral DAILY 
4. Felodipine 2.5 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Torsemide 5 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Rosuvastatin Calcium 40 mg PO QPM 
9. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
10. linagliptin 5 mg oral DAILY 
11. Lisinopril 20 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 25 mg PO BID 
3. Clopidogrel 75 mg PO DAILY 
4. Felodipine 2.5 mg PO DAILY 
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
6. Lisinopril 20 mg PO DAILY 
7. PredniSONE 10 mg PO DAILY 
8. Rosuvastatin Calcium 40 mg PO QPM 
9. Vitamin D ___ UNIT PO DAILY 
10. glimepiride 2 mg ORAL DAILY 
11. linagliptin 5 mg oral DAILY 
12. Torsemide 5 mg PO DAILY 
13. Artificial Tears ___ DROP BOTH EYES QID 
RX *dextran 70-hypromellose [Artificial Tears] 0.1 %-0.3 % ___ 
drops ___ four times a day Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
vertigo 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you at ___! You were here 
because you had some dizziness. We are not sure what caused the 
dizziness, but there was no evidence of a stroke or any other 
life-threatening illness.

What was done while I was here?
- you got fluids through the IV because your blood pressure was 
low
- you had lots of scans of your head to rule out a stroke
- you were seen by the stroke team who did not think you had a 
stroke
- we watched your heart on the monitor
- the cardiologists came to see you to make sure your pacemaker 
was working okay (it was!)
- you also had an increase in your kidney number so we gave you 
fluid
- the eye doctors say ___ to check your vision 
What should I do when I get home?
-Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
- Call your doctor if the dizziness comes back
 
Followup Instructions:
___